US05672620
Step 3: N-Butyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidamide hydrochloride
To a solution of ethyl 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidic acid hydrochloride (400 mg, 1.29 mmol) in dioxane (10 mL) is added excess butylamine (0.5 mL). A color change from red to yellow is observed during the addition, and a precipitate forms. The reaction is also monitored by TLC (10% MeOH/CHCl3). After 3 h, the white solid is collected by filtration and washed with MeOH to give the title compound as a white powder (243 mg, 55.7%), mp=236°-237° C.

reactant | ethyl 7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidic acid hydrochloride | 1.29 mmol, 400 mg | Cl.C(C)C1OC2=C(C1(C)C)C=C(C=C2C(C)(C)C)C(O)=N
reactant | butylamine | 0.5 mL | C(CCC)N | C4H11N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-Butyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran-5-carboximidamide hydrochloride | 243 mg, 55.7% | Cl.C(CCC)NC(=N)C=1C=C(C2=C(C(CO2)(C)C)C1)C(C)(C)C | InChI=1S/C19H30N2O.ClH/c1-7-8-9-21-17(20)13-10-14(18(2,3)4)16-15(11-13)19(5,6)12-22-16;/h10-11H,7-9,12H2,1-6H3,(H2,20,21);1H
